US07786132B2
(i) 2-Tosylthiophene
A mixture of p-toluenesulfonyl chloride (3 g, 15.7 mmol) and zinc chloride (3 g, 21.3 mmol) in acetonitrile (30 mL) was heated to reflux and thiophene (2.4 g, 28.5 mmol) was added dropwise. After refluxing for 4 h the mixture was cooled to rt and filtered through Celite. The filtrate was concentrated in vacuo and then 100 mL of sodium hydroxide (2 N) was added. The mixture was extracted with ethyl acetate (3×60 mL) and the combined organic layers were washed with hydrochloric acid (10%, 50 mL) and brine (100 mL), dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated in vacuo and the product was purified by flash chromatography eluting with dichloromethane/hexane (2:3) to give the title compound (0.54 g, 15 mmol).

reactant | p-toluenesulfonyl chloride | 15.7 mmol, 3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | thiophene | 28.5 mmol, 2.4 g | S1C=CC=C1 | C4H4S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | zinc chloride | 21.3 mmol, 3 g | [Cl-].[Zn+2].[Cl-]
product | 2-Tosylthiophene | 15 mmol, 0.54 g | S(=O)(=O)(C1=CC=C(C)C=C1)C=1SC=CC1 | C11H10O2S2
